US08003703B2
(i) 1-Bromo-4-(ethylthio)-2-methyl-benzene
Bromine (2.2 ml) was added to a solution of 1-(ethylthio)-3-methylbenzene (6.6 g) in acetic acid (20 ml) at 0° C. The mixture was stirred at RT for 2 h then the solvent removed under reduced pressure. The residue was purified by chromatography on silica eluting with DCM. Yield 6.6 g

reactant | Bromine | 2.2 ml | BrBr | Br2
reactant | 1-(ethylthio)-3-methylbenzene | 6.6 g | C(C)SC1=CC(=CC=C1)C | C9H12S
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 1-Bromo-4-(ethylthio)-2-methyl-benzene | BrC1=C(C=C(C=C1)SCC)C | C9H11BrS
